US07009057B2
d) Preparation of 5-(4-(2-(5-ethyl-2-pyridyl)ethoxy)benzyl)-2-imino-4-thiazolidinone
A mixture of methyl 2-bromo-3-(4-(2-(5-ethyl-2-pyridyl)ethoxy)phenyl)propionate (28.4 g), thiourea (5.5 g), sodium acetate (6 g) and ethanol (200 ml) is heated to reflux under heating for three hours. The mixture is concentrated and the concentrate is neutralized with saturated solution of sodium hydrogencarbonate. Adding water (80 ml) and ether (40 ml) precipitates a solid from the mixture. Filtering off gives beige-coloured crystalline

reactant | methyl 2-bromo-3-(4-(2-(5-ethyl-2-pyridyl)ethoxy)phenyl)propionate | 28.4 g | BrC(C(=O)OC)CC1=CC=C(C=C1)OCCC1=NC=C(C=C1)CC | C19H22BrNO3
reactant | thiourea | 5.5 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 6 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-(4-(2-(5-ethyl-2-pyridyl)ethoxy)benzyl)-2-imino-4-thiazolidinone | C(C)C=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=N)=O)C=C1 | C19H21N3O2S
